US04742052
To methyl methylthiomethyl sulfoxide (2.23 g) in dry tetrahydrofuran (10 ml) was added dropwise n-butyl lithium (1.15 g) in dry hexane (11.6 ml) at -60° to -70° C. under nitrogen atmosphere and the mixture was stirred for 20 minutes at the same temperature. Subsequently, 1-p-nitrobenzyloxycarbonyl-4-piperidone (5.0 g) in dry tetrahydrofuran (30 ml) was added dropwise thereto at -55° to -70° C. under nitrogen atmosphere. The reaction mixture was diluted with dichloromethane (200 ml) and water (215 ml), warmed slowly to room temperature, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 1-p-nitrobenzyloxycarbonyl-4-hydroxy-4-methylsulfinylmethylthiomethylpiperidine.

reactant | methyl methylthiomethyl sulfoxide | 2.23 g | CSCS(=O)C | C3H8OS2
reactant | n-butyl lithium | 1.15 g | C(CCC)[Li]
reactant | 1-p-nitrobenzyloxycarbonyl-4-piperidone | 5.0 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)=O)C=C1 | C13H14N2O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 11.6 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 215 ml | O | H2O
product | 1-p-nitrobenzyloxycarbonyl-4-hydroxy-4-methylsulfinylmethylthiomethylpiperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)(CSCS(=O)C)O)C=C1 | C16H22N2O6S2
